US04757051
2-tert-butyl-4-methylcyclohexyl acetate
A mixture of 680 g (4 moles) of 2-tert-butyl-4-methylcyclohexanol and 612 g (6 moles) of acetic anhydride was heated to 145°-160° C. and the resulting acetic acid was distilled off slowly in the course of 3 hours. When the reaction was complete, the mixture was cooled, the excess acetic anhydride was distilled off under 20 mbar, the residue was cooled and then taken up in 500 ml of diethyl ether, the ether solution was washed acid-free with aqueous sodium bicarbonate solution, the solvent was removed and the residue was then fractionated. After a small initial fraction (13 g of boiling point 30°-45° C./0.005 mbar), 806 g of 2-tert-butyl-4-methylcyclohexyl acetate distilled over at 54°-56° C./0.005 mbar. The refractive index nD25 was 1.4505 and the yield was 95% of theory.

reactant | 2-tert-butyl-4-methylcyclohexanol | 4 moles, 680 g | C(C)(C)(C)C1C(CCC(C1)C)O | C11H22O
reactant | acetic anhydride | 6 moles, 612 g | C(C)(=O)OC(C)=O | C4H6O3
product | 2-tert-butyl-4-methylcyclohexyl acetate | yield was 95% | C(C)(=O)OC1C(CC(CC1)C)C(C)(C)C | C13H24O2
